US06451814B1
N-{4-[4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-sulfonyl]-phenyl}-acetamide
N-[4-({4-[4-(2-Aminoethyl)anilino]-1-piperidinyl}sulfonyl)phenyl]acetamide (0.500 g, 1.08 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.4 g, 0.973 mmol) according to Procedure G to give the title compound (0.185 g, 0.225 mmol).

reactant | N-[4-({4-[4-(2-Aminoethyl)anilino]-1-piperidinyl}sulfonyl)phenyl]acetamide | 1.08 mmol, 0.500 g | NCCC1=CC=C(NC2CCN(CC2)S(=O)(=O)C2=CC=C(C=C2)NC(C)=O)C=C1 | C21H28N4O3S
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.973 mmol, 0.4 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | N-{4-[4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-sulfonyl]-phenyl}-acetamide | 0.225 mmol, 0.185 g | O[C@@H](CNCCC1=CC=C(C=C1)NC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)NC(C)=O)COC1=CC=C(C=C1)O | C30H38N4O6S
